US06153604
To a stirred mixture of 3'-amino-4'-fluoroacetophenone (7.56 g, 49.4 mmol) in triethylene glycol (60 mL) was added 4.94 g of sodium hydroxide. Neat hydrazine hydrate (7.2 mL) was added to the mixture in one portion via a syringe. This addition resulted in a slight exotherm (temperature around 50°). The reaction flask (three neck, equipped with claisen adapter and receiving flask) was then equipped with a heating mantle and the reaction heated to 100° C. for 1 hour, then 150° C. At the higher temperature distillate began to collect in the receiving flask. After 1 hour at 150° C. the reaction mixture was then heated to 180° C., while still collecting distillate. After 45 minutes at 180° C. thin layer chromatography indicated the complete absence of starting material and the appearance of a single major product. The reaction mixture was cooled to room temperature with an ice bath and poured into 100 mL of water. The aqueous mixture was extracted three times with ether (125 mL). The combined organic extracts were washed once with water, once with brine and then dried over potassium carbonate. Concentration of the organic extracts in vacuo afforded 2-fluoro-5-ethylaniline (6.82 g) as an amber liquid. This material was further purified by column chromatography (silica gel, hexanes/ethyl acetate: 2/1) to give 7.11 grams of product as a viscous liquid.

reactant | 3'-amino-4'-fluoroacetophenone | 49.4 mmol, 7.56 g | NC=1C=C(C=CC1F)C(C)=O | C8H8FNO
reactant | sodium hydroxide | 4.94 g | [OH-].[Na+]
reactant | hydrazine hydrate | 7.2 mL | O.NN
solvent | triethylene glycol | 60 mL | C(COCCOCCO)O | C6H14O4
product | 2-fluoro-5-ethylaniline | 6.82 g | FC1=C(N)C=C(C=C1)CC | C8H10FN
